US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-8-(1,1-dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride
Prepared by the method described for Example 1 from 8-(1,1-dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]-pyridin-5-one (4 g, 0.016 moles) and 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride (3.6 g, 0.016 moles). Recrystallization from methanol gave the product (3.7 g), mp 312°-315° C.

reactant | 8-(1,1-dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]-pyridin-5-one | 0.016 moles, 4 g | CC(C)(C)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C16H19NO2
reactant | 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride | 0.016 moles, 3.6 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-8-(1,1-dimethylethyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride | 3.7 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)C(C)(C)C | InChI=1S/C26H36N2O2.2ClH/c1-26(2,3)20-8-9-22-21-10-11-27(17-23(21)25(29)30-24(22)14-20)12-13-28-15-18-4-5-19(16-28)7-6-18;;/h8-9,14,18-19H,4-7,10-13,15-17H2,1-3H3;2*1H
